US09382433B2
Finished Ketocoumarin Synthesis
7.964 g (0.02994 moles) of the product from Inventive Example 1, 5.0172 g of potassium carbonate (0.0374 moles) and 50 ml of methyl ethyl ketone were heated to reflux for 5 hours. The mixture was cooled to room temperature and 5.0 g of ethyl bromoacetate (0.02994 moles) were added and the mixture heated to reflux for 7 hours. The mixture was cooled to room temperature and 200 ml of water and 300 ml of dichloromethane were added and the mixture separated. The organic phase was extracted with a further 100 ml of water and then dried with anhydrous magnesium sulphate. The solvent was removed to yield the product as a white/light brown solid.

reactant | potassium carbonate | 0.0374 moles, 5.0172 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
reactant | ethyl bromoacetate | 0.02994 moles, 5.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | Ketocoumarin | O=C1C(OC2=CC=CC=C2C1)=O | C9H6O3
